US06114532
c. 4-(1-methyl-5-nitro-1H-indol-2-yl)-methyl-benzonitrile
6.9 g (28 mmol) of 4-(1-methyl-1H-indol-2-yl)-methyl-benzonitrile are placed in 50 ml conc. sulphuric acid. At 2° C. 2.9 g (28 mmol) of potassium nitrate are added batchwise, whereupon the temperature rises to 10° C. After 30 minutes at 2° C. the mixture is poured onto ice and the product precipitated is suction filtered, washed with ice water, dried and recrystallised from acetone.

reactant | 4-(1-methyl-1H-indol-2-yl)-methyl-benzonitrile | 28 mmol, 6.9 g | CN1C(=CC2=CC=CC=C12)C1=CC(=C(C#N)C=C1)C | C17H14N2
reactant | potassium nitrate | 28 mmol, 2.9 g | [N+](=O)([O-])[O-].[K+]
solvent | sulphuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
product | 4-(1-methyl-5-nitro-1H-indol-2-yl)-methyl-benzonitrile | CN1C(=CC2=CC(=CC=C12)[N+](=O)[O-])C1=CC(=C(C#N)C=C1)C | C17H13N3O2
